US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(2-Hydroxy-ethoxy)-ethyl]-amide
To a mixture of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.19 mmol), HOBt (31 mg, 1.2 eq.), EDAC.HCl (44 mg, 1.2 eq.) and 2-(2-amino-ethoxy)-ethanol (49 mg, 1.1 eq.) in DMF (2 mL) was added TEA (0.066 mL, 2.5 eq.). After stirring at rt for 7 days, the reaction was concentrated, diluted with DCM and then added solid sodium bicarbonate. After stirring at rt for 15 mins, the resulted suspension was loaded onto a silica gel column to give the titled compound as a yellow solid.

reactant | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 31 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 44 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 2-(2-amino-ethoxy)-ethanol | 49 mg, 1.1 eq. | NCCOCCO | C4H11NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(2-Hydroxy-ethoxy)-ethyl]-amide | OCCOCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C27H27Cl2N3O6S
